US05238908
While kept under N2, 2.41 g (60.4 mmol) of sodium hydride (60% dispersion in oil) was washed with 10 ml hexanes and then suspended in 20 ml anhydrous dimethylformamide. A solution of 10.0 g (54.9 mmol) of 6-amino-7-fluoro-2H-1,4-benzoxazin-3(4H)-one in 100 ml of dimethyl formamide was added to the sodium hydride slurry slowly by syringe with ice cooling and the reaction mixture was stirred at room temperature for 0.5 hr. Then there was added 7.91 g (65.9 mmol) of allyl bromide by syringe with ice bath cooling. The reaction mixture was allowed to warm to room temperature, and then poured into 100 ml of water. The resulting mixture was extracted with EtOAc (2×50 ml) and the organic layers were combined and washed with water (3×50 ml), dried over Na2SO4 and filtered. The solvent was removed in vacuo to yield 11.0 g (90% yield) of 4-allyl-6-amino- 7-fluoro-2H-1,4-benzoxazin-3(4H)-one as a brown solid.

reactant | sodium hydride | 60.4 mmol, 2.41 g | [H-].[Na+]
reactant | 6-amino-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 54.9 mmol, 10.0 g | NC=1C(=CC2=C(NC(CO2)=O)C1)F | C8H7FN2O2
reactant | allyl bromide | 65.9 mmol, 7.91 g | C(C=C)Br | C3H5Br
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-allyl-6-amino- 7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 11.0 g, 90% yield | C(C=C)N1C(COC2=C1C=C(C(=C2)F)N)=O | C11H11FN2O2
